// Generated for: spectre
// Generated on: Mar 11 03:01:35 2016
// Design library name: ee115c
// Design cell name: Abs_Detector
// Design view name: schematic
simulator lang=spectre
global 0
include "/w/apps2/public.2/tech/cadence/90nm/gpdk090_v4.6/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: ee115c
// Cell name: INVX1
// View name: schematic
subckt INVX1 A GND VDD Z
    NM0 (Z A GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=990n pd=990n m=(1)*(1) simM=(1)*(1)
    PM0 (Z A VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1) simM=(1)*(1)
ends INVX1
// End of subcircuit definition.

// Library name: ee115c
// Cell name: MUX2X1
// View name: schematic
subckt MUX2X1 A B GND OUT S VDD \~S
    NM1 (B S OUT GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
    NM0 (A \~S OUT GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
    PM1 (B \~S OUT VDD) gpdk090_pmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
    PM0 (A S OUT VDD) gpdk090_pmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=1.42u pd=1.42u m=(1)*(1) simM=(1)*(1)
ends MUX2X1
// End of subcircuit definition.

// Library name: ee115c
// Cell name: NAND2X1
// View name: schematic
subckt NAND2X1 A B GND VDD Z
    NM1 (net012 B GND GND) gpdk090_nmos1v w=(400n) l=100n as=112f ad=112f \
        ps=1.36u pd=1.36u m=(1)*(1) simM=(1)*(1)
    NM0 (Z A net012 GND) gpdk090_nmos1v w=(400n) l=100n as=112f ad=112f \
        ps=1.36u pd=1.36u m=(1)*(1) simM=(1)*(1)
    PM1 (Z B VDD VDD) gpdk090_pmos1v w=(300n) l=100n as=84f ad=84f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
    PM0 (Z A VDD VDD) gpdk090_pmos1v w=(300n) l=100n as=84f ad=84f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
ends NAND2X1
// End of subcircuit definition.

// Library name: ee115c
// Cell name: NOR2X1
// View name: schematic
subckt NOR2X1 A B GND VDD Z
    NM4 (Z B GND GND) gpdk090_nmos1v w=(200n) l=100n as=77.6f ad=77.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
    NM1 (Z A GND GND) gpdk090_nmos1v w=(200n) l=100n as=77.6f ad=77.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
    PM1 (Z B net19 VDD) gpdk090_pmos1v w=(600n) l=100n as=168f ad=168f \
        ps=1.76u pd=1.76u m=(1)*(1) simM=(1)*(1)
    PM0 (net19 A VDD VDD) gpdk090_pmos1v w=(600n) l=100n as=168f ad=168f \
        ps=1.76u pd=1.76u m=(1)*(1) simM=(1)*(1)
ends NOR2X1
// End of subcircuit definition.

// Library name: ee115c
// Cell name: C2_Gen
// View name: schematic
subckt C2_Gen C2 GND VDD \~C0 \~G0 \~G1 \~P0 \~P1
    NM5 (net15 \~C0 GND GND) gpdk090_nmos1v w=(585n) l=100n as=163.8f \
        ad=163.8f ps=1.145u pd=1.145u m=(1)*(1) simM=(1)*(1)
    NM4 (net15 \~P1 GND GND) gpdk090_nmos1v w=(585n) l=100n as=163.8f \
        ad=163.8f ps=1.145u pd=1.145u m=(1)*(1) simM=(1)*(1)
    NM3 (net15 \~P0 GND GND) gpdk090_nmos1v w=(585n) l=100n as=163.8f \
        ad=163.8f ps=1.145u pd=1.145u m=(1)*(1) simM=(1)*(1)
    NM2 (C2 \~P1 net013 GND) gpdk090_nmos1v w=(585n) l=100n as=163.8f \
        ad=163.8f ps=1.145u pd=1.145u m=(1)*(1) simM=(1)*(1)
    NM1 (C2 \~G0 net013 GND) gpdk090_nmos1v w=(585n) l=100n as=163.8f \
        ad=163.8f ps=1.145u pd=1.145u m=(1)*(1) simM=(1)*(1)
    NM0 (net013 \~G1 net15 GND) gpdk090_nmos1v w=(585n) l=100n as=163.8f \
        ad=163.8f ps=1.145u pd=1.145u m=(1)*(1) simM=(1)*(1)
    PM5 (C2 \~G1 VDD VDD) gpdk090_pmos1v w=(290n) l=100n as=81.2f ad=81.2f \
        ps=850n pd=850n m=(1)*(1) simM=(1)*(1)
    PM4 (net31 \~G0 VDD VDD) gpdk090_pmos1v w=(585n) l=100n as=163.8f \
        ad=163.8f ps=1.145u pd=1.145u m=(1)*(1) simM=(1)*(1)
    PM3 (C2 \~P1 net31 VDD) gpdk090_pmos1v w=(585n) l=100n as=163.8f \
        ad=163.8f ps=1.145u pd=1.145u m=(1)*(1) simM=(1)*(1)
    PM2 (net32 \~C0 VDD VDD) gpdk090_pmos1v w=(875n) l=100n as=245f \
        ad=245f ps=1.435u pd=1.435u m=(1)*(1) simM=(1)*(1)
    PM1 (net33 \~P0 net32 VDD) gpdk090_pmos1v w=(875n) l=100n as=245f \
        ad=245f ps=1.435u pd=1.435u m=(1)*(1) simM=(1)*(1)
    PM0 (C2 \~P1 net33 VDD) gpdk090_pmos1v w=(875n) l=100n as=245f ad=245f \
        ps=1.435u pd=1.435u m=(1)*(1) simM=(1)*(1)
ends C2_Gen
// End of subcircuit definition.

// Library name: ee115c
// Cell name: C2_setup
// View name: schematic
subckt C2_setup C0 C2 GND T0 T1 VDD X0 X1 \~C0
    I15 (C0 GND VDD net040) INVX1
    I9 (T0 GND VDD net42) INVX1
    I8 (T1 GND VDD net37) INVX1
    I1 (X0 GND VDD net14) INVX1
    I0 (X1 GND VDD net5) INVX1
    I3 (X0 net14 GND net13 \~C0 VDD C0) MUX2X1
    I2 (X1 net5 GND net20 \~C0 VDD C0) MUX2X1
    I13 (net20 net37 GND VDD net031) NAND2X1
    I12 (net13 net42 GND VDD net032) NAND2X1
    I7 (net20 net37 GND VDD net35) NOR2X1
    I6 (net13 net42 GND VDD net40) NOR2X1
    I14 (C2 GND VDD net040 net032 net031 net40 net35) C2_Gen
ends C2_setup
// End of subcircuit definition.

// Library name: ee115c
// Cell name: C5_Gen
// View name: schematic
subckt C5_Gen C5 GND VDD \~C2 \~G2 \~G3 \~G4 \~P2 \~P3 \~P4
    PM9 (C5 \~C2 net15 VDD) gpdk090_pmos1v w=(4u) l=100n as=1.12p ad=1.12p \
        ps=4.56u pd=4.56u m=(1)*(1) simM=(1)*(1)
    PM8 (net15 \~P2 net14 VDD) gpdk090_pmos1v w=(4u) l=100n as=1.12p \
        ad=1.12p ps=4.56u pd=4.56u m=(1)*(1) simM=(1)*(1)
    PM7 (net14 \~P3 net13 VDD) gpdk090_pmos1v w=(4u) l=100n as=1.12p \
        ad=1.12p ps=4.56u pd=4.56u m=(1)*(1) simM=(1)*(1)
    PM6 (net13 \~P4 VDD VDD) gpdk090_pmos1v w=(4u) l=100n as=1.12p \
        ad=1.12p ps=4.56u pd=4.56u m=(1)*(1) simM=(1)*(1)
    PM5 (C5 \~G2 net11 VDD) gpdk090_pmos1v w=(3u) l=100n as=840f ad=840f \
        ps=3.56u pd=3.56u m=(1)*(1) simM=(1)*(1)
    PM4 (net11 \~P3 net12 VDD) gpdk090_pmos1v w=(3u) l=100n as=840f \
        ad=840f ps=3.56u pd=3.56u m=(1)*(1) simM=(1)*(1)
    PM3 (net12 \~P4 VDD VDD) gpdk090_pmos1v w=(3u) l=100n as=840f ad=840f \
        ps=3.56u pd=3.56u m=(1)*(1) simM=(1)*(1)
    PM2 (C5 \~P4 net10 VDD) gpdk090_pmos1v w=(2u) l=100n as=560f ad=560f \
        ps=2.56u pd=2.56u m=(1)*(1) simM=(1)*(1)
    PM1 (net10 \~G3 VDD VDD) gpdk090_pmos1v w=(2u) l=100n as=560f ad=560f \
        ps=2.56u pd=2.56u m=(1)*(1) simM=(1)*(1)
    PM0 (C5 \~G4 VDD VDD) gpdk090_pmos1v w=(1u) l=100n as=280f ad=280f \
        ps=1.56u pd=1.56u m=(1)*(1) simM=(1)*(1)
    NM9 (net2 \~P2 GND GND) gpdk090_nmos1v w=(2.67u) l=100n as=747.6f \
        ad=747.6f ps=3.23u pd=3.23u m=(1)*(1) simM=(1)*(1)
    NM8 (net2 \~P3 GND GND) gpdk090_nmos1v w=(2.67u) l=100n as=747.6f \
        ad=747.6f ps=3.23u pd=3.23u m=(1)*(1) simM=(1)*(1)
    NM7 (net2 \~P4 GND GND) gpdk090_nmos1v w=(2.67u) l=100n as=747.6f \
        ad=747.6f ps=3.23u pd=3.23u m=(1)*(1) simM=(1)*(1)
    NM6 (net2 \~C2 GND GND) gpdk090_nmos1v w=(2.67u) l=100n as=747.6f \
        ad=747.6f ps=3.23u pd=3.23u m=(1)*(1) simM=(1)*(1)
    NM5 (net5 \~P3 net2 GND) gpdk090_nmos1v w=(2.67u) l=100n as=747.6f \
        ad=747.6f ps=3.23u pd=3.23u m=(1)*(1) simM=(1)*(1)
    NM4 (net5 \~P4 net2 GND) gpdk090_nmos1v w=(2.67u) l=100n as=747.6f \
        ad=747.6f ps=3.23u pd=3.23u m=(1)*(1) simM=(1)*(1)
    NM3 (net5 \~G2 net2 GND) gpdk090_nmos1v w=(2.67u) l=100n as=747.6f \
        ad=747.6f ps=3.23u pd=3.23u m=(1)*(1) simM=(1)*(1)
    NM2 (C5 \~P4 net018 GND) gpdk090_nmos1v w=(2.67u) l=100n as=747.6f \
        ad=747.6f ps=3.23u pd=3.23u m=(1)*(1) simM=(1)*(1)
    NM1 (C5 \~G3 net018 GND) gpdk090_nmos1v w=(2.67u) l=100n as=747.6f \
        ad=747.6f ps=3.23u pd=3.23u m=(1)*(1) simM=(1)*(1)
    NM0 (net018 \~G4 net5 GND) gpdk090_nmos1v w=(2.67u) l=100n as=747.6f \
        ad=747.6f ps=3.23u pd=3.23u m=(1)*(1) simM=(1)*(1)
ends C5_Gen
// End of subcircuit definition.

// Library name: ee115c
// Cell name: C5_setup
// View name: schematic
subckt C5_setup C0 C5 GND T2 T3 T4 VDD X2 X3 X4 \~C0 \~C2
    I1 (C5 GND VDD \~C2 net7 net069 net9 net10 net11 net051) C5_Gen
    I4 (X4 net036 GND net028 \~C0 VDD C0) MUX2X1
    I3 (X3 net040 GND net046 \~C0 VDD C0) MUX2X1
    I2 (X2 net032 GND net062 \~C0 VDD C0) MUX2X1
    I18 (T4 GND VDD net053) INVX1
    I17 (T3 GND VDD net057) INVX1
    I16 (T2 GND VDD net084) INVX1
    I7 (X2 GND VDD net032) INVX1
    I6 (X4 GND VDD net036) INVX1
    I5 (X3 GND VDD net040) INVX1
    I8 (net062 net084 GND VDD net10) NOR2X1
    I9 (net046 net057 GND VDD net11) NOR2X1
    I10 (net028 net053 GND VDD net051) NOR2X1
    I15 (net028 net053 GND VDD net9) NAND2X1
    I13 (net046 net057 GND VDD net069) NAND2X1
    I12 (net062 net084 GND VDD net7) NAND2X1
ends C5_setup
// End of subcircuit definition.

// Library name: ee115c
// Cell name: INVX1_7V5
// View name: schematic
subckt INVX1_7V5 A GND VDD Z
    NM0 (Z A GND GND) gpdk090_nmos1v w=(665n) l=100n as=186.2f ad=186.2f \
        ps=1.89u pd=1.89u m=(1)*(1) simM=(1)*(1)
    PM0 (Z A VDD VDD) gpdk090_pmos1v w=(1u) l=100n as=280f ad=280f \
        ps=2.56u pd=2.56u m=(1)*(1) simM=(1)*(1)
ends INVX1_7V5
// End of subcircuit definition.

// Library name: ee115c
// Cell name: Abs_Detector
// View name: schematic
I0 (net20 net18 GND T0 T1 VDD net017 net018 net016) C2_setup
I1 (net028 OUT GND T2 T3 T4 VDD net019 net020 net021 net026 net024) \
        C5_setup
I13 (net026 GND VDD net028) INVX1
I12 (net20 GND VDD net026) INVX1
I10 (X4 GND VDD net021) INVX1
I9 (X1 GND VDD net018) INVX1
I8 (X0 GND VDD net017) INVX1
I7 (X5 GND VDD net016) INVX1
I6 (X2 GND VDD net019) INVX1
I5 (X3 GND VDD net020) INVX1
I2 (net016 GND VDD net20) INVX1
I16 (net18 GND VDD net024) INVX1_7V5
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
